US08168658B2
Step A: Tert-butyl 4-(bromomethyl)benzoate.
Magnesium sulfate (7.8494 g, 65.21 mmol) was suspended in dichloromethane (65 mL). Concentrated sulfuric acid (0.9 mL) was added and allowed to stir for 15 minutes. 4-(bromomethyl)benzoic acid (3.4851 g, 16.21 mmol) and tert-butanol (7.8 mL) were added. The reaction was allowed to stir overnight at room temperature. Saturated sodium bicarbonate (15 ml) was added and the reaction was allowed to stir. Magnesium sulfate was filtered off. The reaction was washed with saturated sodium bicarbonate. The aqueous layer was extracted three times with dichloromethane. The combined organic layer was dried over sodium sulfate, filtered, and concentrated. The resulting material was dissolved in ethyl acetate and the product was partially recrystallized. To optimize the yield, the product remaining in the ethyl acetate was purified by column chromatography. 1H NMR 600 MHz (CD3OD) δ 7.91 (d, 2H, J=8.2 Hz), 7.48 (d, 2H, J=8.2 Hz), 4.58 (s, 2H), 1.60 (s, 9H).

reactant | Magnesium sulfate | 65.21 mmol, 7.8494 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sulfuric acid | 0.9 mL | S(O)(O)(=O)=O | H2O4S
reactant | 4-(bromomethyl)benzoic acid | 16.21 mmol, 3.4851 g | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | sodium bicarbonate | 15 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 65 mL | ClCCl | CH2Cl2
solvent | tert-butanol | 7.8 mL | C(C)(C)(C)O | C4H10O
product | Tert-butyl 4-(bromomethyl)benzoate | BrCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H15BrO2
